US08084449B2
N-[(3-Bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (1.86 g, 2.93 mmol), (3-formylphenyl)boronic acid (0.439 g, 2.93 mmol), potassium carbonate (1.215 g, 8.79 mmol), and Pd(Ph3P)4 (0.169 g, 0.147 mmol) were combined in three 10-20 mL Biotage microwave vials in 1,4-dioxane (27 mL) and water (9 mL). The vials were capped and the mixture was heated in the microwave at normal power at 100° C. for 15 min. The crude product was partitioned between EtOAc (200 mL) and water (70 mL). The phases were separated, and the organic phase was washed with water (2×50 mL), brine (50 mL), dried over anhydrous Na2SO4, filtered and evaporated to give the crude residues. It was taken up in DCM and absorbed on Isolute® Sorbent and purified by a CombiFlash on a 120 g silica column eluted with 0-10% MeOH/DCM. Product fractions were combined and concentrated under vacuum to give (N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide (1.85 g, 2.72 mmol, 93% yield)) as a white solid. LC-MS m/z 660 (M+H)+, 0.94 min (ret time).

reactant | N-[(3-Bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 2.93 mmol, 1.86 g | BrC=1C=C(C=CC1C)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H36BrN7O3
reactant | (3-formylphenyl)boronic acid | 2.93 mmol, 0.439 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | potassium carbonate | 8.79 mmol, 1.215 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 27 mL | O1CCOCC1 | C4H8O2
solvent | water | 9 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(Ph3P)4 | 0.147 mmol, 0.169 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide | 2.72 mmol, 1.85 g, 93% yield | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)C=O)CC | C38H41N7O4
